US09193935B2
16.1: 2-((4E,8Z)-undeca-2.4.8-trien-2-yl)naphthalene
Starting from (1-(2-naphthyl)ethyltriphenylphosphonium bromide (2.40 g, 4.83 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 3.0 mL, 4.83 mmol, 1.0 equiv.) and (2E,6Z)-Nona-2,6-dienal (1.00 g, 7.24 mmol, 1.5 equiv.), and after stirring the mixture at 25° C. for 3 h, 0.90 g (67%) of the title compound as a a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | 1-(2-naphthyl)ethyltriphenylphosphonium bromide | 4.83 mmol, 2.40 g, 1.0 equiv. | [Br-].C1=C(C=CC2=CC=CC=C12)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 4.83 mmol, 1.6 M, 3.0 mL, 1.0 equiv. | [Li]CCCC
reactant | (2E,6Z)-Nona-2,6-dienal | 7.24 mmol, 1.00 g, 1.5 equiv. | C(\C=C\CC\C=C/CC)=O | C9H14O
product | 2-((4E,8Z)-undeca-2.4.8-trien-2-yl)naphthalene | 0.90 g, 67% | CC(=C\C=C\CC\C=C/CC)C1=CC2=CC=CC=C2C=C1 | C21H24
